US07585868B2
Synthesis of 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK139).
1-tert-butyl-3-(1,2,3,4-tetrahydronaphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (9 mg, 0.029 mmol) was dissolved in a solution of formic acid (1 mL) and conc. HCl (0.1 mL) and heated to reflux. The reaction was allowed to proceed 30 min., then concentrated in vacuo and the products purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 266.1, found 266.4.

reactant | 1-tert-butyl-3-(1,2,3,4-tetrahydronaphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.029 mmol, 9 mg | C(C)(C)(C)N1N=C(C=2C1=NC=NC2N)C2CC1=CC=CC=C1CC2 | C19H23N5
solvent | formic acid | 1 mL | C(=O)O | CH2O2
solvent | HCl | 0.1 mL | Cl | ClH
product | 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C1C(CCC2=CC=CC=C12)C1=NNC2=NC=NC(=C21)N | C15H15N5
